US07109186B2
Compound 754: 4-Hydroxy-1-(3-methylcarbamoyl-propyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
Compound 754 was prepared from 4-{4-[(3,4-dichloro-benzyl)-methyl-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid and methylamine using the method described for compound 751. The title compound was isolated as a white powder (0.0192 g, 18% yield). HRMS (M+H) calcd for C18H22N3Cl2O4: 414.09875. found: 414.0969.

reactant | 4-{4-[(3,4-dichloro-benzyl)-methyl-carbamoyl]-3-hydroxy-2-oxo-2,5-dihydro-pyrrol-1-yl}-butyric acid | ClC=1C=C(CN(C(=O)C2=C(C(N(C2)CCCC(=O)O)=O)O)C)C=CC1Cl | C17H18Cl2N2O5
reactant | methylamine | CN | CH5N
product | 4-Hydroxy-1-(3-methylcarbamoyl-propyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCCC(NC)=O)C)C=CC1Cl | C18H21Cl2N3O4
